US07517873B2
To a mixture of 2.4 g (0.02 mole) of benzotriazole and 1.98 mL (0.02 mole) of cyclopentylamine in 100 mL of ether was added dropwise 1.5 mL (0.02 mole) of 37% aqueous formaldehyde. The reaction mixture was stirred at room temperature for 6 hours. The solution was dried over calcium chloride, filtered and concentrated under reduced pressure. The solid was washed with hexane and dried to give benzotriazol-1-ylmethyl-cyclopentyl-amine as a white solid.

reactant | benzotriazole | 0.02 mole, 2.4 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | cyclopentylamine | 0.02 mole, 1.98 mL | C1(CCCC1)N | C5H11N
reactant | formaldehyde | 0.02 mole, 1.5 mL | C=O | CH2O
solvent | ether | 100 mL | CCOCC | C4H10O
product | benzotriazol-1-ylmethyl-cyclopentyl-amine | N1(N=NC2=C1C=CC=C2)CNC2CCCC2 | C12H16N4
